US07951819B2
1-(5-(2-Amino-3-nitropyridin-4-yloxy)-2,4-dichlorophenyl)-3-(3-(trifluoromethyl)phenyl)urea
Method G was used with 4-(5-amino-2,4-dichlorophenoxy)-2-amino-3-nitropyridine and 3-trifluoromethylphenyl isocyanate to afford the title compound as a yellow solid (92 mg, 58%). 1H-NMR (δ, ppm, DMSO-d6): 6.01 (d, 1H, HPy,5, J=5.6 Hz), 7.26 (s, 2H, NH2,Py), 7.35-7.37 (m, 1H, Harom), 7.53-7.55 (m, 2H, Harom), 7.90 (s, 1H, Harom), 7.98 (s, 1H, Harom), 8.03 (d, 1H, HPy,6, J=5.6 Hz), 8.24 (s, 1H, Harom), 8.62 (s, 1H, NHurea), 9.86 (s, 1H, NHurea). 13C-NMR (δ, ppm, DMSO-d6): 99.6 (C-4); 113.9 (C-11); 114.1 (C-14); 118.4 (C-2); 118.7 (C-16); 119.4 (C-7); 121.0 (C-18); 121.9 (C-9); 125.1 (C-15); 129.5 (C-19); 130.0 (C-17); 130.4 (C-8); 136.3 (C-10); 139.7 (C-13); 147.3 (C-6); 151.7 (C-12); 153.4 (C-5); 153.8 (C-1); 157.6 (C-3). LC-MS (m/z): 501 (M+H, 100).

reactant | 4-(5-amino-2,4-dichlorophenoxy)-2-amino-3-nitropyridine | NC=1C(=CC(=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C1)Cl)Cl | C11H8Cl2N4O3
reactant | 3-trifluoromethylphenyl isocyanate | FC(C=1C=C(C=CC1)N=C=O)(F)F | C8H4F3NO
product | 1-(5-(2-Amino-3-nitropyridin-4-yloxy)-2,4-dichlorophenyl)-3-(3-(trifluoromethyl)phenyl)urea | 92 mg, 58% | NC1=NC=CC(=C1[N+](=O)[O-])OC=1C(=CC(=C(C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)Cl)Cl | C19H12Cl2F3N5O4
